US04113976
Phenol and the above-mentioned catalyst are charged into a reactor; the mixture is heated to 100°-110° C. and isobutylene is passed thereinto for 8 hours. The resulting alkylate is subjected to a vacuum-rectification. After recrystallization of the product from aliphatic hydrocarbons, a 100% pure 2,6-di-tertbutylphenol is obtained.

reactant | Phenol | C1(=CC=CC=C1)O | C6H6O
reactant | isobutylene | CC(C)=C | C4H8
product | 2,6-di-tertbutylphenol | 100% | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
